US07148214B1
Reaction under N2 atmosphere. A mixture of DIPA (0.455 mol) in THF (500 ml) was stirred at −78° C. Butyllithium, 2.5M/hexane (0.390 mol) was added dropwise at −40° C. The mixture was stirred for 15 min, then re-cooled to −78° C. A solution of 1-(4-phenylbutyl)-1H-imidazole, prepared according to the procedure described in J. Chem. Soc., Perkin Trans., 1 (1975), 17, 1670-1671, (0.325 mol) in THF (350 ml) was added dropwise at −60° C. The mixture was stirred for one hour, then re-cooled to −78° C. This mixture was added dropwise to a mixture of N,N-dimethylformamide (0.390 mol, dry, p.a.) in THF (500 ml), stirred at −78° C. The reaction mixture was stirred for one hour at −78° C., then allowed to warm to room temperature while stirring overnight. A saturated aqueous NH4Cl solution (400 ml) was added and this mixture was extracted with THF. The separated organic layer was dried, filtered and the solvent evaporated, yielding 74.2 g of 1-(4-phenylbutyl)-1H-imidazole-2-carboxamide (interm. 18).

reactant | Butyllithium | C(CCC)[Li]
reactant | hexane | 0.390 mol | CCCCCC | C6H14
reactant | 1-(4-phenylbutyl)-1H-imidazole | C1(=CC=CC=C1)CCCCN1C=NC=C1 | C13H16N2
reactant | N,N-dimethylformamide | 0.390 mol | CN(C=O)C | C3H7NO
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 1-(4-phenylbutyl)-1H-imidazole-2-carboxamide | 74.2 g | C1(=CC=CC=C1)CCCCN1C(=NC=C1)C(=O)N | C14H17N3O
